US08633189B2
Tert-butyl 4-(5-cyclopentyl-4-methoxycarbonyloxy-2-nitro-phenyl)-3,6-dihydro-2H-pyridine-1-carboxylate (680 mg, 1.52 mmol) in methanol (30 mL) was treated with 10% Pd/C (162 mg) and stirred under H2 for 1 h at room temperature. The reaction was filtered and concentrated in vacuo to provide tert-butyl 4-(2-amino-5-cyclopentyl-4-(methoxycarbonyloxy)phenyl)piperidine-1-carboxylate (520 mg, 82% yield). LC/MS m/z 419.7 [M+H]+.

reactant | Tert-butyl 4-(5-cyclopentyl-4-methoxycarbonyloxy-2-nitro-phenyl)-3,6-dihydro-2H-pyridine-1-carboxylate | 1.52 mmol, 680 mg | C1(CCCC1)C=1C(=CC(=C(C1)C=1CCN(CC1)C(=O)OC(C)(C)C)[N+](=O)[O-])OC(=O)OC | C23H30N2O7
solvent | methanol | 30 mL | CO | CH4O
catalyst | Pd/C | 162 mg | [Pd] | Pd
product | tert-butyl 4-(2-amino-5-cyclopentyl-4-(methoxycarbonyloxy)phenyl)piperidine-1-carboxylate | 520 mg, 82% yield | NC1=C(C=C(C(=C1)OC(=O)OC)C1CCCC1)C1CCN(CC1)C(=O)OC(C)(C)C | C23H34N2O5
